US04886835
The procedure is as in Example 2 for the preparation of diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate, starting with N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetraflouroborate (5.7 g), a 2M ethanolic solution of sodium ethylate (10 cc) and ethyl (3-phenoxybenzylthio)acetate (6.1 g) in ethanol (50 cc). After purification by chromatography on a silica column with a mixture of cyclohexane and ethyl acetate (50:50 by volume) as eluent, diethyl 2-dimethylamino-5-(3-phenoxybenzylthio)-2,4-hexadienedioate (7 g) is obtained in the form of a yellow oil, and is used in the crude state in the subsequent syntheses.

reactant | diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate | CN(C(C(=S)OCC)=CC=C(C(=O)OCC)C1=CC=CC=C1)C | C18H23NO3S
reactant | N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetraflouroborate | 5.7 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C(=O)OCC)C
reactant | sodium ethylate | 10 cc | CC[O-].[Na+]
reactant | ethyl (3-phenoxybenzylthio)acetate | 6.1 g | O(C1=CC=CC=C1)C=1C=C(CSCC(=O)OCC)C=CC1 | C17H18O3S
solvent | ethanol | 50 cc | C(C)O | C2H6O
product | diethyl 2-dimethylamino-5-(3-phenoxybenzylthio)-2,4-hexadienedioate | 7 g | CN(C(C(=O)OCC)=CC=C(C(=O)OCC)SCC1=CC(=CC=C1)OC1=CC=CC=C1)C | C25H29NO5S
